US07598285B2
tert-Butyl N-{4-[(1S)-1-(3-(3,5-dichlorophenyl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazol-1-yl)ethyl]benzoyl}-β-alaninate (10 mg, 0.016 mmol), 6-trifluoromethoxy-2-naphthylboronic acid (5.1 mg, 0.02 mmol), and TEA (14 ul, 0.1 mmol) were dissolved in dimethoxyethane (0.5 ml) and deoxygenated by vacuum-N2 fill cycles. The catalyst Pd(PPh3)4 (2 mg, 10% mol) was added and the mixture was deoxygenated again before heated in microwave reactor to 100° C. for 10 min. The mixture was quenched with 1.5 ml of CH3CN:H2O (3:1, with 5% TFA) and product separated through reverse phase preparative HPLC. The collected product was treated with 1 ml of TFA-DCM (1:2) for 30 min, and the residue lyophilized to give N-[4-((1S)-1-{3-(3,5-dichlorophenyl)-5-[6-(trifluoromethoxy)-2-naphthyl]-1H-pyrazol-1-yl}ethyl)benzoyl]-β-alanine as fine powder. NMR (500 MHz, DMSO-d6) δ: 1.91 (d, J=7.0 Hz, 3H); 2.46 (t, J=7.0 Hz, 2H); 3.41 (q, J=7.0 Hz, 2H); 5.78 (q, J=7.0 Hz, 1H); 7.21 (d, J=8.4 Hz, 2H); 7.22 (s, 1H); 7.57 (t, J=1.9 Hz, 1H; 7.58˜7.60 (m, 2H); 7.72 (d, J=8.4 Hz, 2H); 7.94 (d, J=1.9 Hz, 2H); 8.04 (br s, 1H); 8.06 (br s, 1H); 8.09 (d, J=9.1 Hz, 1H); 8.13 (d, J=8.6 Hz, 1H); 8.44 (t, J=5.5 Hz, 1H). MS C32H24Cl2F3N3O4 Cald: 641.11; Obsd (M+1): 642.22.

reactant | tert-Butyl N-{4-[(1S)-1-(3-(3,5-dichlorophenyl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazol-1-yl)ethyl]benzoyl}-β-alaninate | 0.016 mmol, 10 mg | ClC=1C=C(C=C(C1)Cl)C1=NN(C(=C1)OS(=O)(=O)C(F)(F)F)[C@@H](C)C1=CC=C(C(=O)NCCC(=O)OC(C)(C)C)C=C1 | C26H26Cl2F3N3O6S
reactant | 6-trifluoromethoxy-2-naphthylboronic acid | 0.02 mmol, 5.1 mg | FC(OC=1C=C2C=CC(=CC2=CC1)B(O)O)(F)F | C11H8BF3O3
solvent | dimethoxyethane | 0.5 ml | C(OC)COC | C4H10O2
product | N-[4-((1S)-1-{3-(3,5-dichlorophenyl)-5-[6-(trifluoromethoxy)-2-naphthyl]-1H-pyrazol-1-yl}ethyl)benzoyl]-β-alanine | ClC=1C=C(C=C(C1)Cl)C1=NN(C(=C1)C1=CC2=CC=C(C=C2C=C1)OC(F)(F)F)[C@@H](C)C1=CC=C(C(=O)NCCC(=O)O)C=C1 | C32H24Cl2F3N3O4
